US06087380
h) 1-Methyl-2-[(4-amidinophenyl)oxymethyl]-imidazo[4,5-b]-pyridin-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonyl-ethyl)-amide
Prepared by reacting 140 mg (0.3 mMol) of 1-methyl-2-[(4-cyanophenyl)oxymethyl]-imidazo[4,5-b]pyridin-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide with ethanol saturated by hydrogen chloride and with ammonium carbonate/ethanol analogously to Example 1g. The resulting product was purified by chromatography over silica gel with dichloromethane/ethanol (19:1 to 4:1). Yield: 48 mg of white powder (36% of theory), C26H27N7O4 (501.57) Mass spectrum: (M+H)+ =502

reactant | 1-methyl-2-[(4-cyanophenyl)oxymethyl]-imidazo[4,5-b]pyridin-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide | 0.3 mMol, 140 mg | N1=C(C=CC=C1)N(C(=O)C1=CC=C2C(=N1)N=C(N2C)COC2=CC=C(C=C2)C#N)CCC(=O)OC | C25H22N6O4
reactant | hydrogen chloride | Cl | ClH
reactant | ammonium carbonate ethanol | C([O-])([O-])=O.[NH4+].[NH4+].C(C)O
solvent | ethanol | C(C)O | C2H6O
product | 1-Methyl-2-[(4-amidinophenyl)oxymethyl]-imidazo[4,5-b]-pyridin-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonyl-ethyl)-amide | N1=C(C=CC=C1)N(C(=O)C1=CC=C2C(=N1)N=C(N2C)COC2=CC=C(C=C2)C(N)=N)CCC(=O)OCC | C26H27N7O4
